US08304443B2
(R)—N-(2-Fluoro-5-(oxiran-2-yl)phenyl)methanesulfonamide
(R)—N-(2-Fluoro-5-(2-iodo-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide (2.4190 g) was dissolved in dehydrated THF (40 mL), and added with 1 mol/L-TBAF-THF solution (10 mL; manufactured by Sigma-Aldrich Co.), followed by replacement with nitrogen and stirring at room temperature for 1 hour. The reaction solution was added to brine, and extraction was carried out once with ethyl acetate. The organic layer was washed once with water and dried over magnesium sulfate. After the solvent was evaporated under reduced pressure, the resulting residue was purified by column chromatography (“COLUMN-B”; n-hexane:ethyl acetate=71:29→50:50) to obtain the title compound (0.5995 g).

reactant | (R)—N-(2-Fluoro-5-(2-iodo-1-(triethylsilyloxy)ethyl)phenyl)methanesulfonamide | 2.4190 g | FC1=C(C=C(C=C1)[C@H](CI)O[Si](CC)(CC)CC)NS(=O)(=O)C | C15H25FINO3SSi
reactant | TBAF THF | 10 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (R)—N-(2-Fluoro-5-(oxiran-2-yl)phenyl)methanesulfonamide | 0.5995 g | FC1=C(C=C(C=C1)[C@H]1OC1)NS(=O)(=O)C | C9H10FNO3S
